US03978097
13.6 g (0.05 mol) of phosphorus tribromide and 2.47 g (0.03 mol) of pyridine are mixed and cooled to 0°-5°C. 20 g (0.125 mol) of 5-isopropoxy-3-methyl-1-pentanol are added dropwise, whilst stirring, over the course of 1 hour. The turbid mixture is then heated to 25°C and after 2 hours at 12 mm Hg, the reaction mixture is distilled into a receiver containing ice cold saturated sodium bicarbonate solution. (B.P.: 92°-103° /12 mm). The distillate is taken up in ether, successively washed with saturated sodium bicarbonate solution, water, 2N sulphuric acid, water, dried with sodium sulphate and evaporated. The residue is distilled, whereby 1-bromo-5-isopropoxy-3-methyl-pentane is obtained. B.P.: 92°-95° /12 mm Hg.

reactant | phosphorus tribromide | 0.05 mol, 13.6 g | P(Br)(Br)Br | Br3P
reactant | pyridine | 0.03 mol, 2.47 g | N1=CC=CC=C1 | C5H5N
reactant | 5-isopropoxy-3-methyl-1-pentanol | 0.125 mol, 20 g | C(C)(C)OCCC(CCO)C | C9H20O2
product | 1-bromo-5-isopropoxy-3-methyl-pentane | BrCCC(CCOC(C)C)C | C9H19BrO
